US07323538B2
9-Hydroxymethylfluorene (10 g) and 1 g KOH were dissolved in 90 ml of methanol and reacted at 60° C. for 1 hour, and the methanol was evaporated. From the solid thus obtained, dibenzofulvene was extracted using hexane and water, and washed with water until the hexane phase containing dibenzofulvene was neutral. After separating off the hexane phase, the hexane was evaporated, and the solid obtained was recrystallized from a mixed solvent of hexane-diethyl ether (4/6 v/v) to obtain dibenzofulvene. The melting point of the dibenzofulvene was 50-52° C.

reactant | 9-Hydroxymethylfluorene | 10 g | OCC1C2=CC=CC=C2C=2C=CC=CC12 | C14H12O
reactant | KOH | 1 g | [OH-].[K+]
solvent | methanol | 90 ml | CO | CH4O
product | dibenzofulvene | C=C1C2=CC=CC=C2C3=CC=CC=C13 | C14H10
